Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Symptomatic right carotid stenosis
 
Major Surgical or Invasive Procedure:
___: Right carotid endarterectomy
___: Evacuation of right neck hematoma
 
History of Present Illness:
___ yo M w/ h/o multiple lacunar infarcts & HLD presented to 
___ ED ___ after two eposides of dysarthria 
and left sided weakness, each lasting about 15 minutes, which 
occured on the morning of admission. This was witnessed by both 
the pt's son and wife. Family notes that pt had word finding 
difficulties and left leg weakness. On presentation to the ED, 
the pt's symptoms had resolved. An ultrasound at ___ 
___ 70-79% proximal right ICA stenosis. He was 
transferred to ___ for surgery.
 
Past Medical History:
BPH, HLD, osteopenia, basal ganglial and cerebellar lacunar 
infarcts, first lacunar infarct ___ years ago  
Past Surgical:  
herniorrhaphies, tonsillectomy  

 
Social History:
___
Family History:
n/c
 
Physical Exam:
Alert and oriented x 3 
VS:BP156/71   HR78        
Resp: Lungs clear
Abd: Soft, non tender
Ext: Pulses:      Left  Femoral palp,    DP palp   ,___ palp
                  Right Femoral palp,    DP palp   ,___ palp
Feet warm,  well perfused.  No open areas
Incision: Right neck, steristripped. Soft, no hematoma but there 
is ecchymosis.

 
Pertinent Results:
___ 01:00PM BLOOD TSH-2.2
___ 07:30AM BLOOD WBC-10.1 RBC-3.71* Hgb-10.7* Hct-31.2* 
MCV-84 MCH-28.8 MCHC-34.3 RDW-14.5 Plt ___
___ 07:30AM BLOOD Glucose-113* UreaN-10 Creat-1.0 Na-140 
K-4.0 Cl-106 HCO3-26 AnGap-12
___ 07:30AM BLOOD Calcium-9.0 Phos-2.8 Mg-2.0

MR HEAD W/O CONTRAST ___
IMPRESSION: 
  
1. New small foci of slow diffusion, in the left parietal lobe, 
which may 
relate to small acute infarcts. 
  
2. Stable small acute-subacute infarct in the right internal 
capsule. 
  
3. Moderate ventriculomegaly, which may relate to volume loss, 
with or 
without a superimposed component of NPH/obstruction at cerebral 
aqueduct. No significant interval short-term change compared to 
the recent study. Follow up as clinically indicated and 
correlate clinically. 

CTA: ___ 
1. CT HEAD: small vessel ischmic changes. No hemorrhage. 
2. CTA: Moderate to severe aortic arch atheropsclerosis. changes 
of R CEA. Moderate atherosclerotic calcification and 
non-calcified plaque in the left CCA bifurcation and left 
proximal ICA, with approximately 40 % stenosis. Moderate 
calcification in both cavernous ICA. Moderate stensis at the 
origin of one of right M2 branches. Mild irregularity of the 
left M1, without occlusion. Mild narrowing of the right P1 
segment.

 
Brief Hospital Course:
___ year old man with symptomatic right carotid stenosis was 
brought to the operating room on ___ and underwent a right 
carotid endarterectomy.  The procedure was without 
complications. Postoperatively, he had several issues. 

1.TIA
On POD # 1 he developed a mild fluent expressive aphasia, 
significant for neologisms, with paraphasic errors (word 
substitution) and slight right facial asymmetry and dysarthria, 
without other focal deficits. MRI showed a New small foci of 
slow diffusion, in the left parietal lobe, which may  relate to 
small acute infarcts and stable small acute-subacute infarct in 
the right internal capsule. 
His symptoms completely resolved within a few hours after being 
started on a Heparin infusion.  Later in the day patient was 
noted to have new right neck swelling requiring surgical 
revision with hematoma evacuation.
 
2.Atrial Fibrillation
On POD # 5 Mr. ___ had episodes of artrial fibrillation with 
rapid venticular response. He was briefly on amiodarone. 
Cardiology was consulted who recommended anticoagulation as his 
___ score was 4.  They felt the bilateral nature of his 
original neurological deficet, dysarthria and left sided 
weakness, may have been secondary to atrial fib.  He was started 
on pradaxa and is presently in sinus rhythm.

3.Urinary Retention/UTI
Mr. ___ had several episodes of urinary retention with post 
void residuals of 250-300cc.  He had not been on his home med of 
doxazosin and he also had a urinary tract infection.  We 
restarted the doxazosin and treated his UTI with cipro.  He will 
follow up with his PCP regarding issue. 

He was cleared by speech and swallow for a regular diet.  He has 
no signs of aspiration. He is ambulatory with a slightly 
unsteady gait. He worked with physical therapy who recommended 
home with services.  She was discharged to home on POD #7 in 
stable condition.  Follow-up has been arranged with Dr. 
___ in one month with surveillance carotid duplex. 

 
Medications on Admission:
Exelon 3 mg bid  
Folic acid 1 mg qday  
Aspirin 81 mg daily  
Doxazosin 4 mg po daily  
Plavix 75 mg  
ASA 81 mg  

 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day: for the next 7 days.
Disp:*14 Tablet(s)* Refills:*0*
3. dabigatran etexilate 150 mg Capsule Sig: One (1) Capsule PO 
BID (2 times a day).
Disp:*60 Capsule(s)* Refills:*0*
4. atorvastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*1*
5. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day.
Disp:*60 Capsule(s)* Refills:*2*
7. Exelon 3 mg Capsule Sig: One (1) Capsule PO once a day.  
8. doxazosin 4 mg Tablet Sig: One (1) Tablet PO once a day.  
9. folic acid 1 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Symptomatic right internal carotid artery stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were transferred to ___ from ___ for surgery 
to remove a blockage in your right carotid artery.  This was 
felt to be the cause of the left sided weakness and speech 
problems, called TIAs, that you had the day of admission. 

While you were in the hospital you had problems with an 
irregular heart rate called atrial fibrillation.

We have started you on new medications 
1.pradaxa-blood thinner to prevent complications of clots 
associated with this irregular heart rate.  
2.atorvastatin-for cholesterol
We have arranged follow up with a new cardiologist, Dr. ___.

You also had a problem with urinary tract infection and urinary 
retention, the inability to fully empty your bladder.

We have added new medications, Cipro, for the next 7 days  to 
treat the infection. 

Division of Vascular and Endovascular Surgery
Carotid Endarterectomy Surgery Discharge Instructions

What to expect when you go home:
1. Surgical Incision:
•It is normal to have some swelling and feel a firm ridge along 
the incision
•Your incision may be slightly red and raised, it may feel 
irritated from the staples

2. You may have a sore throat and/or mild hoarseness
•Try warm tea, throat lozenges or cool/cold beverages 

3. You may have a mild headache, especially on the side of your 
surgery
•Try ibuprofen, acetaminophen, or your discharge pain 
medication
•If headache worsens, is associated with visual changes or 
lasts longer than 2 hours- call vascular surgeon’s office

4. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•You may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!

5. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•No driving until post-op visit and you are no longer taking 
pain medications
•No excessive head turning, lifting, pushing or pulling 
(greater than 5 lbs) until your post op visit
•You may shower (no direct spray on incision, let the soapy 
water run over incision, rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed
•Take all the medications you were taking before surgery, 
unless otherwise directed
•Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 

 
Followup Instructions:
___